US04950764
(Example 5) Synthesis of 5-(4-methoxyphenyl)-3-hydroxyisoxazole
The above-identified compound was synthesized according to the process of (Example 2) using hydroxylamine hydrochloride and 4-methoxybenzoylacetic acid ethylester.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | 4-methoxybenzoylacetic acid ethylester | C(C)OC(CC(C1=CC=C(C=C1)OC)=O)=O | C12H14O4
product | 5-(4-methoxyphenyl)-3-hydroxyisoxazole | COC1=CC=C(C=C1)C1=CC(=NO1)O | C10H9NO3
